US08496835B2
Method 5b: 3-Carboxy-4-hydroxy-4′-methylbiphenyl-3′,5,5′-trisulfonic Acid (F) (fw=468.43)
The same procedure as 5a is used with 11.42 g dry 4-hydroxy-4′-methylbiphenyl-3-carboxylic acid (50 mmole, fw=228.25) and 80.1 g 30% fuming sulfuric acid (300 mmole, fw=80.06) which are stirred at 30° C. for 24 hour and then heated with stirring at 70° C. for another 24 hours. Crystallization was effected using 22.2 g distilled water and 145 mL propionitrile. Yield was 21.2 g (84%) of the trisulfonated product as white crystals of the dihydrate.

reactant | 4-hydroxy-4′-methylbiphenyl-3-carboxylic acid | 11.42 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C)C(=O)O | C14H12O3
reactant | sulfuric acid | 80.1 g | S(O)(O)(=O)=O | H2O4S
product | 3-Carboxy-4-hydroxy-4′-methylbiphenyl-3′,5,5′-trisulfonic Acid | C(=O)(O)C=1C=C(C=C(C1O)S(=O)(=O)O)C1=CC(=C(C(=C1)S(=O)(=O)O)C)S(=O)(=O)O | C14H12O12S3
